US06057369
A solution of 6.3 g (28.86 mmol) of t-butyl 4-phenylbut-2-enoate in 100 mL of CH2Cl2 and 30 mL of trifluoroacetic acid is stirred at 25° C. for 18 hours. The reaction is concentrated in vacuo to afford 4.67 g (99.85%) of 4-phenylbut-2-enoic acid as a yellow crystalline solid.

reactant | t-butyl 4-phenylbut-2-enoate | 28.86 mmol, 6.3 g | C1(=CC=CC=C1)CC=CC(=O)OC(C)(C)C | C14H18O2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | trifluoroacetic acid | 30 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 4-phenylbut-2-enoic acid | 4.67 g, 99.85% | C1(=CC=CC=C1)CC=CC(=O)O | C10H10O2
